US03931177
Preparation of 6-[2-(3-t-Butylamino-2-hydroxypropoxy)-5-(methylamino)phenyl]-4,5-dihydro-3(2H)-pyridazinone
By subjecting 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-(methylamino)benzoyl]propionic acid to cyclisation with hydrazine hydrate by a method similar to that described in Example 19(ix), the title compound may be prepared.

reactant | 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-(methylamino)benzoyl]propionic acid | C(C)(C)(C)NCC(COC1=C(C(=O)CCC(=O)O)C=C(C=C1)NC)O | C18H28N2O5
reactant | hydrazine hydrate | O.NN
product | 6-[2-(3-t-Butylamino-2-hydroxypropoxy)-5-(methylamino)phenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)NC)C=1CCC(NN1)=O)O | C18H28N4O3
